US08461179B1
A mixture of 1-(4-chloro-5-(1-ethyl-7-((4-methoxybenzyl)(methyl)amino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-chloro-5-fluorophenyl)urea (91 mg, 0.143 mmol) and anisole (77 mg, 0.713 mmol) was stirred in TFA (3 mL) at RT for 3 h. The mixture was concentrated to near-dryness, dissolved in EtOAc and treated with satd. NaHCO3. The layers were separated, the organic layer washed with brine and dried over Na2SO4. Solids precipitated, so THF, MeOH and DMF were added and the mixture was warmed to afford a clear solution, then filtered to remove salts. The filtrate was concentrated to dryness and purified via reverse-phase chromatography (MeCN/H2O with 0.1% TFA). The organics were removed under reduced pressure, the aqueous residue neutralized with satd. NaHCO3, extracted with warm EtOAc (2×) and the combined organics were washed with brine, dried over Na2SO4 and concentrated to dryness to afford 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-chloro-5-fluorophenyl)urea (55 mg, 74% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.43 (s, 1H), 8.83 (s, 1H), 8.41 (s, 1H), 8.09 (d, J=8.6 Hz, 1H), 7.74 (s, 1H), 7.55 (d, J=10.9 Hz, 1H), 7.36 (s, 1H), 7.27 (dt, J=11.2, 2.1 Hz, 1H), 7.06-6.98 (m, 2H), 6.24 (s, 1H), 4.14 (q, J=7.1 Hz, 2H), 2.86 (d, J=4.8 Hz, 3H), 1.20 (t, J=7.0 Hz, 3H); MS (ESI) m/z: 518.1 [M+H]+.

reactant | 1-(4-chloro-5-(1-ethyl-7-((4-methoxybenzyl)(methyl)amino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-chloro-5-fluorophenyl)urea | 0.143 mmol, 91 mg | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)N(C)CC1=CC=C(C=C1)OC)CC)=O)NC(=O)NC1=CC(=CC(=C1)F)Cl)F | C32H27Cl2F2N5O3
reactant | anisole | 0.713 mmol, 77 mg | C1(=CC=CC=C1)OC | C7H8O
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-chloro-5-fluorophenyl)urea | 55 mg, 74% yield | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O)NC(=O)NC1=CC(=CC(=C1)F)Cl)F | C24H19Cl2F2N5O2
